US05571775
16. Preparation of N-(2,6-Dichlorophenyl)-5-methoxy-7-methyl[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide
N-(2,6-Dichlorophenyl)-5-chloro-7-methyl[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide (3.0 g, 0.0077 mol) and 25 percent sodium methoxide in methanol (12 mL, 2.8 g, 0.050 mol) were combined in methanol (100 mL) and heated to reflux with stirring for 2 hours. The reaction mixture was cooled and acidified with acetic acid and the volatiles were removed by evaporation under reduced pressure. The residue obtained was diluted with dichloromethane and the mixture was washed with water. The organic solution phase was filtered and the filtrate was concentrated by evaporation under reduced pressure. The residue obtained was mixed with ether and filtered to recover the solids. The solids were dried to obtain 2.6 g (87 percent of theory) of the title compound as a white powder melting at 269°-270° C.(d).

reactant | N-(2,6-Dichlorophenyl)-5-chloro-7-methyl[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide | 0.0077 mol, 3.0 g | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(C=C(C=C2Cl)C)=N1 | C13H9Cl3N4O2S
reactant | sodium methoxide | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ether | CCOCC | C4H10O
solvent | methanol | 100 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 0.050 mol, 12 mL, 2.8 g | CO | CH4O
product | N-(2,6-Dichlorophenyl)-5-methoxy-7-methyl[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(C=C(C=C2OC)C)=N1 | C14H12Cl2N4O3S
